US07112610B2
(4R,5S)-4-Methyl-3-((R)-4-methyl-octanoyl)-5-phenyl-oxazolidin-2-one.
To (R)-4-methyl-octanoic acid (2.14 g, 13.5 mmol) in 25 mL CH2Cl2 at 0° C. was added 3 drops DMF, followed by oxalyl chloride (1.42 mL, 16.2 mmol) resulting in vigorous gas evolution. The solution was warmed directly to ambient temperature, stirred 30 minutes, and concentrated. Meanwhile, to a solution of the oxazolidinone (2.64 g, 14.9 mmol) in 40 mL THF at −78° C. was added n-butyllithium (1.6 M soln in hexanes, 9.3 mL, 14.9 mmol) dropwise. The mixture was stirred for 10 minutes at which time the acid chloride in 10 mL THF was added dropwise. The reaction was stirred 30 minutes at −78° C., then warmed directly to ambient temperature and quenched with sat. NH4Cl. The mixture was partitioned between Et2O and sat. NH4Cl (aq), the phases were separated, and the organic phase dried (MgSO4), and concentrated to furnish 3.2 g of the titled compound as a colorless oil. LRMS: m/z 318.2 (M+); 1H NMR (400 MHz; CDCl3): δ 7.34 (m, 5H), 5.64 (d, J=7.3 Hz, 1H), 4.73 (quint, J=6.8 Hz, 1H), 2.96 (m, 1H), 2.86 (m, 1H), 1.66 (m, 1H), 1.47 (m, 2H), 1.26 (m, 5H), 1.13 (m, 1H), 0.88 (m, 9H). The crude product was used without purification.

reactant | (R)-4-methyl-octanoic acid | 13.5 mmol, 2.14 g | C[C@@H](CCC(=O)O)CCCC | C9H18O2
reactant | oxalyl chloride | 16.2 mmol, 1.42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxazolidinone | 14.9 mmol, 2.64 g | O1C(NCC1)=O | C3H5NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4R,5S)-4-Methyl-3-((R)-4-methyl-octanoyl)-5-phenyl-oxazolidin-2-one | 3.2 g | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CC[C@@H](CCCC)C)=O | C19H27NO3
